US07491716B2
N-[2-hydroxyeth-1-yl] (5-Methyl-1H-indol-7-yl)methylamine
Dissolve 5-Methyl-1H-indole-7-carboxaldehyde (4.036 g, 25.384 mmol) in absolute methanol (200 mL), add 2-aminoethanol (3.1 g, 50.767 mmol) and 10% palladium on carbon (0.4 g). Stir the mixture for 1 hour under nitrogen, then under 1 atmosphere of hydrogen for 3 hours. Filter, concentrate under reduced pressure, and purify by flash column chromatography (silica gel, 90/19/1, dichloromethane/methanol/ammonia) to give the title compound as a colorless oil.

reactant | 5-Methyl-1H-indole-7-carboxaldehyde | 25.384 mmol, 4.036 g | CC=1C=C2C=CNC2=C(C1)C=O | C10H9NO
reactant | 2-aminoethanol | 50.767 mmol, 3.1 g | NCCO | C2H7NO
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 mL | CO | CH4O
catalyst | palladium on carbon | 0.4 g | [Pd] | Pd
product | N-[2-hydroxyeth-1-yl] (5-Methyl-1H-indol-7-yl)methylamine | OCCNCC=1C=C(C=C2C=CNC12)C | C12H16N2O
